US07981874B2
Chlorodiisopropylphosphine (6.00 g, 39.3 mmol) was dissolved in THF (150 mL) and cooled to −78° C. Vinylmagnesium bromide (1 M in THF, 43.2 mL, 43.2 mmol) was added dropwise. The dry ice bath was then removed, and the reaction was allowed to warm to room temperature. After 2 h at room temperature, the reaction was quenched with saturated NH4Cl, and 30% H2O2 (75 mL) was added. The mixture was vigorously stirred at room temperature for 2 h. It was then extracted with CH2Cl2 (2×), dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/EtOAc) afforded diisopropyl(vinyl) phosphine oxide as a colorless oil. 1H NMR (CDCl3, 600 MHz) δ 6.31 (td, J=18.6, 2.2 Hz, 1H), 6.24 (ddd, J=34.8, 12.8, 2.3 Hz, 1H), 6.03 (ddd, J=27.3, 18.7, 12.8 Hz, 1H), 2.01-1.92 (m, 2H), 1.15 (dd, J=15.0, 7.0 Hz, 6H), 1.06 (dd, J=15.9, 7.4 Hz, 6H). MS: cal'd 161 (MH+), exp 161 (MH+).

reactant | Chlorodiisopropylphosphine | 39.3 mmol, 6.00 g | ClP(C(C)C)C(C)C | C6H14ClP
reactant | Vinylmagnesium bromide | 43.2 mmol, 1 M, 43.2 mL | C(=C)[Mg]Br
reactant | THF | 150 mL | C1CCOC1 | C4H8O
product | diisopropyl(vinyl) phosphine oxide | C(C)(C)P(C=C)(C(C)C)=O | C8H17OP
